US04020075
2-Bromo-1-hydroxyquinolizinium bromide p-allyloxyanilinium salt
To a solution of 1-acetoxy-2-bromoquinolizinium bromide (10.0 g., 0.029 mole) in isopropanol (200 ml.) was added p-allyloxyaniline (11.0 g., 0.068 mole). The stirred mixture was boiled under reflux for 4.5 hours. The reaction mixture was cooled at room temperature overnight, and the solid was removed by filtration and washed with ether, providing 5.0 g. of product. The supernatant solution was treated with ether and refrigerated, providing another 5.0 g. of product, making the total yield 10.0 g. (77%). Recrystallization from isopropanol produced a light yellow powder melting at 125°-127°.

reactant | 1-acetoxy-2-bromoquinolizinium bromide | 0.029 mole, 10.0 g | [Br-].C(C)(=O)OC1=C(C=C[N+]2=CC=CC=C12)Br
reactant | p-allyloxyaniline | 0.068 mole, 11.0 g | C(C=C)OC1=CC=C(N)C=C1 | C9H11NO
reactant | ether | CCOCC | C4H10O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 2-Bromo-1-hydroxyquinolizinium bromide p-allyloxyanilinium salt | C(C=C)OC1=CC=C([NH3+])C=C1.[Br-].BrC1=C(C2=CC=CC=[N+]2C=C1)O.[Br-] | InChI=1S/C9H6BrNO.C9H11NO.2BrH/c10-7-4-6-11-5-2-1-3-8(11)9(7)12;1-2-7-11-9-5-3-8(10)4-6-9;;/h1-6H;2-6H,1,7,10H2;2*1H
